US05332757
Using an analogous procedure to that described in Example 66, 5-{5-fluoro-3-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]phenylthio}indan-1-one was reacted with hydroxylamine hydrochloride to give (E)-5-{5-fluoro-3-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]phenylthio}indan-1-one oxime in 48% yield, m.p. 136°-137° C.

reactant | 5-{5-fluoro-3-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]phenylthio}indan-1-one | FC=1C=C(C=C(C1)SC=1C=C2CCC(C2=CC1)=O)C1(C(OCC1)C)OC | C21H21FO3S
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-5-{5-fluoro-3-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]phenylthio}indan-1-one oxime | 48% yield | FC=1C=C(C=C(C1)SC=1C=C2CC\C(\C2=CC1)=N/O)C1(C(OCC1)C)OC | C21H22FNO3S
